US09315467B2
Preparation of 3-[4-(4-Fluoro-phenyl)-5-methyl-pyrimidin-2-yl]-benzoic acid (Compound 55)
Part B. A mixture of 3-dimethylamino-1-(4-fluoro-phenyl)-propan-1-one (641.9 mg, 3.10 mmol) and 3-carbamimidoyl-benzoic acid tert-butyl ester (426.1 mg, 1.91 mmol) in anhydrous acetic acid (8 mL) is heated to 130° C. at 300 W, 250 psi in a microwave reactor for 30 min. A white solid is precipitated by addition of 1 N HCl, and collected by filtration, followed by washing with water and hexanes. The obtained solid is further purified by flash column chromatography, eluting with methanol/methylene chloride (1:40) to afford the title product (114.1 mg, 12.0% yield), m.p. 272-275° C. 1H NMR (300 MHz, DMSO-d6): δ 8.50 (2H, d, J=8.0 Hz), 8.06 (2H, d, J=8.0 Hz), 7.85 (2H, m), 8.13 (2H, m), 7.38 (2H, m), 2.40 (3H, s). MS (ES+): m/e 309.34.

reactant | 3-dimethylamino-1-(4-fluoro-phenyl)-propan-1-one | 3.10 mmol, 641.9 mg | CN(CCC(=O)C1=CC=C(C=C1)F)C | C11H14FNO
reactant | 3-carbamimidoyl-benzoic acid tert-butyl ester | 1.91 mmol, 426.1 mg | C(C)(C)(C)OC(C1=CC(=CC=C1)C(N)=N)=O | C12H16N2O2
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 3-[4-(4-Fluoro-phenyl)-5-methyl-pyrimidin-2-yl]-benzoic acid | 114.1 mg, 12.0% yield | FC1=CC=C(C=C1)C1=NC(=NC=C1C)C=1C=C(C(=O)O)C=CC1 | C18H13FN2O2
